US07414060B2
Step 1: 3-tert-Butoxycarbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester
To a solution of 6-Methyl-pyridine-2,3-dicarboxylic acid 2-methyl ester (CAS:[135338-27-1]) (4.93 g, 25 mmol) and N-methylmorpholine (3.05 ml, 2.81 g, 28 mmol, 1.1 equiv.) in methylene chloride (100.0 ml) was added diphenylphosphoryl-azide (DPPA, 6.14 ml, 7.88 g, 28 mmol, 1.1 equiv.) dropwise at room temperature. The mixture was stirred for 30 min at r.t. and then heated to 70° C. for 2 h whereby nitrogen evolution is observed. Then tert-Butanol (3.56 ml, 2.81 g, 38 mmol, 1.5 equiv.) and copper(I) chloride (25 mg, 0.25 mmol, 0.01 equiv.) were added and the mixture was heated at 70° C. for another 4 h. The reaction mixture was allowed to cool to r.t., stirred overnight, and concentrated in vaccuo. The resulting dark brown oil (16.9 g) was purified by flash chromatography (heptane/ethyl acetate 3:2) to yield the title compound as a white solid (total 5.06 g, 75%), MS (ISP): m/e=267.2 (M+H+).

reactant | 6-Methyl-pyridine-2,3-dicarboxylic acid 2-methyl ester | 25 mmol, 4.93 g | COC(=O)C1=NC(=CC=C1C(=O)O)C | C9H9NO4
reactant | N-methylmorpholine | 28 mmol, 3.05 ml, 2.81 g, 1.1 equiv. | CN1CCOCC1 | C5H11NO
reactant | diphenylphosphoryl-azide | 28 mmol, 6.14 ml, 7.88 g, 1.1 equiv. | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-Butanol | 38 mmol, 3.56 ml, 2.81 g, 1.5 equiv. | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | 100.0 ml | C(Cl)Cl | CH2Cl2
catalyst | copper(I) chloride | 0.25 mmol, 25 mg, 0.01 equiv. | [Cu]Cl
product | 3-tert-Butoxycarbonylamino-6-methyl-pyridine-2-carboxylic acid methyl ester | 5.06 g, 75% | COC(=O)C1=NC(=CC=C1NC(=O)OC(C)(C)C)C | C13H18N2O4
